US04407930
H. 2-Aminoresorcinol ditosylate
To 2-nitroresorcinol ditosylate (46.3 g, 0.1 mole) dissolved in THF (650 ml) was added 5 g of Raney Nickel. The reaction was then placed on the Parr-shaker apparatus and hydrogenated at 40 psi. After four hours, the reaction had consumed all of the hydrogen (12 psi, 0.3 mole). The catalyst was removed by filtration and the solvent evaporated under reduced pressure at 40° C. A white crystalline solid was recovered (42.0 g, 97.0 percent). TLC showed the product to be pure.

reactant | 2-nitroresorcinol ditosylate | 0.1 mole, 46.3 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC1=C(C(OS(=O)(=O)C2=CC=C(C)C=C2)=CC=C1)[N+](=O)[O-] | C20H17NO8S2
reactant | hydrogen | 0.3 mole | [H][H] | H2
solvent | THF | 650 ml | C1CCOC1 | C4H8O
catalyst | Raney Nickel | 5 g | [Ni] | Ni
product | 2-Aminoresorcinol ditosylate | S(=O)(=O)(C1=CC=C(C)C=C1)OC1=C(C(OS(=O)(=O)C2=CC=C(C)C=C2)=CC=C1)N | C20H19NO6S2
